US04564630
4-Fluoro-4'-(N-propyl-carbamyloxy)-α-ethyl-benzhydrol
12.3 g. of 4-fluoro-4'-hydroxy-α-ethyl-benzhydrol, 4.68 g. of n-propyl-isocyanate and 0.7 g. of anhydrous, powdered potassium carbonate in 61 ml. of acetonitrile containing 15 μlit. of a 50% aqueous ethanol solution are refluxed under stirring. When the reaction is complete, the reaction mixture is cooled to room temperature, potassium carbonate is filtered off and acetonitrile is distilled off under reduced pressure. The residue is dissolved in benzene, the benzene solution is shaken with a 5% aqueous sodium hydroxide solution and washed to neutral with water. The organic phase is dried over anhydrous magnesium sulfate, filtered, and benzene is distilled off under reduced pressure. Crystallization of the residue from a mixture of ethyl acetate and n-hexane yields 13.6 g. of the desired compound, melting at 107° to 108° C.

reactant | 4-fluoro-4'-hydroxy-α-ethyl-benzhydrol | FC1=CC=C(C(C2=CC=C(C=C2)O)(O)CC)C=C1 | C15H15FO2
reactant | n-propyl-isocyanate | C(CC)N=C=O | C4H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 15 μlit. | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | 4-Fluoro-4'-(N-propyl-carbamyloxy)-α-ethyl-benzhydrol | FC1=CC=C(C(C2=CC=C(C=C2)OC(NCCC)=O)(O)CC)C=C1 | C19H22FNO3
